US06479531B1
5-{[5-(Adamantan-1-yloxymethyl)-2-cyclooctyl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid
The title compound was prepared according to the procedure of Example 216, with the modification that cyclooctanecarboxaldehyde (prepared from cyclooctanone according to the procedure given in Example 205, steps a and b) was used in step d instead of cyclohexanecarboxaldehyde and 5-amino-2-methyl-benzoic acid benzyl ester replaced 3-amino-benzoic acid benzyl ester in step f. 1H NMR (300 MHz, d6-DMSO) 12.40 (1H, br s), 12.10 (1H, br s), 9.55 (1H, br s), 8.29 (1H, s), 7.78 (1H, d), 7.20 (1H, d), 4.78 (2H, s), 2.96 (1H, m), 2.45 (3H, s), 2.10-1.53 (29H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 61.55; H, 8.31; N, 7.60%; C38H58N4O9.1.5 H2O requires: C, 61.52; H, 8.28; N, 7.55%.

reactant | cyclooctanecarboxaldehyde | C1(CCCCCCC1)C=O | C9H16O
reactant | cyclooctanone | C1(CCCCCCC1)=O | C8H14O
reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
reactant | 5-amino-2-methyl-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)N)C)=O | C15H15NO2
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | water dioxan | O.O1CCOCC1
solvent | H2O | O | H2O
product | 5-{[5-(Adamantan-1-yloxymethyl)-2-cyclooctyl-1H-imidazole-4-carbonyl]-amino}-2-methyl-benzoic Acid | C12(CC3CC(CC(C1)C3)C2)OCC2=C(N=C(N2)C2CCCCCCC2)C(=O)NC=2C=CC(=C(C(=O)O)C2)C | C31H41N3O4
